US04078090
Magnesium (carboxymethylthio)acetate is prepared by reacting magnesium hydroxide or carbonate with (carboxymethylthio) acetic acid, this salt being a mucolytic agent of the invention. It is called compound LJ 1165 hereinafter.

reactant | magnesium hydroxide | [OH-].[Mg+2].[OH-]
reactant | carbonate | C([O-])([O-])=O
reactant | (carboxymethylthio) acetic acid | C(=O)(O)CSCC(=O)O | C4H6O4S
product | Magnesium (carboxymethylthio)acetate | C(=O)(O)CSCC(=O)[O-].[Mg+2].C(=O)(O)CSCC(=O)[O-] | InChI=1S/2C4H6O4S.Mg/c2*5-3(6)1-9-2-4(7)8;/h2*1-2H2,(H,5,6)(H,7,8);/q;;+2/p-2
